US08461328B2
Diisopropylethylamine (0.107 ml, 0.615 mmol) and methoxyacetyl chloride (0.028 ml, 0.308 mmol) were added sequentially to a solution of N-[1-benzenesulfonyl-4-(piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(3-methyl-isoxazol-4-yl)-acetamide (hydrochloride salt) (0.205 mmol) in CH2Cl2 (2 ml) at 25° C. The reaction mixture was stirred for 3 h at 25° C., then was partitioned between saturated NaHCO3 (6 ml) and CH2Cl2 (2 ml). The phases were separated using a phase separation column (Biotage) and the organic layer was concentrated under reduced pressure to give crude N-{1-benzenesulfonyl-4-[1-(2-methoxy-acetyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-yl}-2-(3-methyl-isoxazol-4-yl)-acetamide as a brown oil/solid. LCMS (Method G, ESI): RT=0.73 min, m+H=567.3. This material was used in the next step below without additional purification or characterization.

reactant | Diisopropylethylamine | 0.615 mmol, 0.107 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxyacetyl chloride | 0.308 mmol, 0.028 ml | COCC(=O)Cl | C3H5ClO2
reactant | N-[1-benzenesulfonyl-4-(piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(3-methyl-isoxazol-4-yl)-acetamide | 0.205 mmol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCNCC2)NC(CC=2C(=NOC2)C)=O | C24H26N6O4S
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{1-benzenesulfonyl-4-[1-(2-methoxy-acetyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-yl}-2-(3-methyl-isoxazol-4-yl)-acetamide | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)C(COC)=O)NC(CC=2C(=NOC2)C)=O | C27H30N6O6S
